* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\CircuitoPrueba1.asc
R2 N003 V1 10
R4 V2 N003 10
R3 0 N003 5
R1 V1 0 5
R5 V2 0 10
.backanno
.end
