* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\Proyecto\CircuitoPrueba1.asc
R2 N001 V1 10
R4 V2 N001 10
R3 0 N001 5
R1 V1 0 5
R5 V2 0 10
.backanno
.end
